* C:\Users\dtori\OneDrive\Escritorio\UC3M\CUARTO\vhdl_labs\analog_lab\LTSpice_models\entregable_23_24_estudiantes.asc
V2 vdd 0 1
CL vout 0 4p
V5 N001 0 0.6
V6 vp N001 AC 0.5
V7 N001 vn 0 AC 0.5
M1 v2 vn v3 v2 N_50n l=200n w=34u
M2 v2 vp v4 v2 N_50n l=200n w=34u
M3 vdd v3 v3 vdd P_50n l=200n w=102u
M4 vdd v3 v4 vdd P_50n l=200n w=102u
M7 0 v1 v2 0 N_50n l=200n w=120u
I1 vdd v1 150µ
M6 0 v1 v1 0 N_50n l=200n w=18u
M5 vdd v4 vout vdd P_50n l=200n w=34u
M8 0 v1 vout 0 N_50n l=200n w=18u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dtori\AppData\Local\LTspice\lib\cmp\standard.mos
.include cmosedu_models.txt
.op dec 1s 100 500meg
.backanno
.end
